US07375115B2
Cyclooctylacetaldehyde
To a solution of 1,1,1-tris(acetoxy)-1,1-dihydro-1,2-benziodoxol-3(1H)-one (490 mg) in dichloromethane (3 mL) was added pyridine (0.25 mL). To the solution was added a solution of 2-cyclooctylethanol (120 mg) in dichlormethane (3 mL) under ice cooling. The reaction solution was stirred at room temperature for 3 hours. To the solution was added diethyl ether, and it was washed in turn with aqueous sodium thiosulfate, 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride. The solution was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound. This product was subjected to the subsequent step without further purification.

reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-cyclooctylethanol | 120 mg | C1(CCCCCCC1)CCO | C10H20O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichlormethane | 3 mL | ClCCl | CH2Cl2
product | Cyclooctylacetaldehyde | C1(CCCCCCC1)CC=O | C10H18O
